US07524882B2
Step 2. 2-Ethyl-5-hydroxy-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester
Methyl (2S)-5-acetyl-2-ethyl-2,3-dihydro-benzofuran-2-carboxylate (3.8 g, ca. 15 mmol), m-chloroperbenzoic acid (70%, 7.7 g, 30 mmol) and NaHCO3 (3.8 g, 45 mmol) in dichloromethane (150 mL) was stirred under reflux for 2 hrs. The reaction mixture was washed successively with saturated aqueous sodium sulfite (100 mL) and aqueous NaHCO3 (2×100 mL). After removal of solvent, the residue was dissolved in methanol (100 mL) and treated with aqueous KOH (5 N, 3 mL) at 0° C. for 5 min. The reaction was neutralized with excess solid sodium bicarbonate, filtered and concentrated. The residue was purified by chromatography on silica gel eluting with 8:2 hexane:ethyl acetate to give the title compound.

reactant | Methyl (2S)-5-acetyl-2-ethyl-2,3-dihydro-benzofuran-2-carboxylate | ca. 15 mmol, 3.8 g | C(C)(=O)C=1C=CC2=C(C[C@](O2)(C(=O)OC)CC)C1 | C14H16O4
reactant | m-chloroperbenzoic acid | 30 mmol, 7.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 45 mmol, 3.8 g | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-Ethyl-5-hydroxy-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester | COC(=O)C1(OC2=C(C1)C=C(C=C2)O)CC | C12H14O4
